US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester (5.00 g) and potassium carbonate (6.13 g), the objective (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid (4.06 g) was obtained as a colorless amorphous solid.

reactant | (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester | 5.00 g | COC(=O)C1=CC=C2[C@H](CCSC2=C1C)NC(=O)OC(C)(C)C | C17H23NO4S
reactant | potassium carbonate | 6.13 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid | 4.06 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=C(C(=CC=C12)C(=O)O)C | C16H21NO4S
